* C:\Users\aushilfe\Documents\Schnoerr_Benedikt\th\st_ekg\Draft1.asc
J1 N002 0 N003 NJF
R1 N003 0 100k
V1 N002 0 3
.model NJF NJF
.model PJF PJF
.lib C:\Users\aushilfe\AppData\Local\LTspice\lib\cmp\standard.jft
.tran 1
.backanno
.end
