* C:\Users\aushilfe\Documents\Schnoerr_Benedikt\th\st_ekg\st_ekg\schematics\ekg_v2_butterworth.asc
XU1 Va N005 V+ V- N006 LT1001
XU2 Vb N016 V+ V- N017 LT1001
XU3 N019 N012 V+ V- N013 LT1001
R2 N017 N016 10k
R1 N006 N005 10k
R3 N016 N005 20k
R4 N012 N006 10k
R5 N019 N017 10k
R6 N013 N012 10k
R7 0 N019 10k
V1 Vb Va AC 0.5
V2 V+ 0 9
V3 0 V- 9
XU4 N018 N009 V+ V- N010 LT1001
R10 N010 N009 10k
R12 0 N009 100
C3 N018 N013 0.1µ
C5 N001 N010 0.1µ
C6 V+ 0 0.1µ
C7 0 V- 0.1µ
XU5 N015 N011 V+ V- N011 LT1001
R8 N015 N001 159k
C1 N015 0 100n
R9 N007 N011 236k
R11 N014 N007 487k
C2 N014 0 22n
XU6 N014 N008 V+ V- N008 LT1001
C4 N008 N007 100n
R13 N002 N001 220
R14 N003 N002 2.2k
R15 N004 N003 22k
C8 N002 0 10µ
C9 N003 0 1µ
C10 N004 0 0.1µ
XU7 N024 N022 V+ V- N022 LT1001
C11 N024 0 100n
R16 N020 N022 220k
R17 N023 N020 470k
C12 N023 0 22n
XU8 N023 N021 V+ V- N021 LT1001
C13 N021 N020 100n
R18 N024 N001 150k
XU9 N029 N027 V+ V- N027 LT1001
C14 N029 0 100n
R19 N025 N027 330k
R20 N028 N025 500k
C15 N028 0 22n
XU10 N028 N026 V+ V- N026 LT1001
C16 N026 N025 100n
R21 N029 N001 220k
* Instrumentationsverstärker
.ac dec 10000 1 1000
* Verstärker v=100
* 3rd Order Butterworth (50Hz/-40dB)
.lib LTC.lib
.backanno
.end
