* B:\Dokumente\Studium\7. Semester\MSE - Schaltungstechnik\st_ekg\schematics\ekg_v5_hardware_switch7.asc
XU1 Va N002 V+ V- N003 LT1001
XU2 Vb N018 V+ V- N019 LT1001
XU3 N020 N012 V+ V- N013 LT1001
R2 N019 N018 10k
R1 N003 N002 10k
R3 N018 N002 20k
R4 N012 N003 10k
R5 N020 N019 10k
R6 N013 N012 10k
R7 0 N020 10k
V2 V+ 0 9
V3 0 V- 9
XU4 N013 N009 V+ V- N010 LT1001
R10 N010 N009 10k
R12 0 N009 100
C5 N016 N010 0.1µ
C6 V+ 0 0.1µ
C7 0 V- 0.1µ
XU9 N017 N011 V+ V- N011 LT1001
C14 N017 0 100n
R19 N007 N011 220k
R20 N015 N007 470k
C15 N015 0 22n
XU10 N015 N008 V+ V- N008 LT1001
C16 N008 N007 100n
R21 N017 N016 150k
V4 N001 0 SINE(0 0.1 5)
V5 N004 0 SINE(0 0.5 5)
V6 N021 0 2
C1 N014 N008 0.1µ
XU5 NC_01 NC_02 NC_03 NC_04 N004 Va N001 NC_05 ADG1219
XU6 NC_06 NC_07 NC_08 NC_09 N021 Vb N004 NC_10 ADG1219
XU7 N014 N005 V+ V- N006 LT1001
R8 N006 N005 47k
R9 0 N005 1k
C2 out N006 0.1µ
R11 N014 0 1Meg
* Instrumentationsverstärker
.ac dec 10000 1 1000
* Verstärker v=101
* 3rd Order Butterworth (50Hz/-40dB)
* Modell für Hardware-Switch
* Verstärker v=47
.lib ADG1219.sub
.lib LTC.lib
.backanno
.end
