* C:\Users\aushilfe\Documents\Schnoerr_Benedikt\th\st_ekg\ekg_v4_jfet_switch.asc
XU1 Va N002 V+ V- N003 LT1001
XU2 Vb N016 V+ V- N017 LT1001
XU3 N019 N010 V+ V- N011 LT1001
R2 N017 N016 10k
R1 N003 N002 10k
R3 N016 N002 20k
R4 N010 N003 10k
R5 N019 N017 10k
R6 N011 N010 10k
R7 0 N019 10k
V2 V+ 0 9
V3 0 V- 9
XU4 N018 N007 V+ V- N008 LT1001
R10 N008 N007 10k
R12 0 N007 100
C3 N018 N011 0.1µ
C5 N014 N008 0.1µ
C6 V+ 0 0.1µ
C7 0 V- 0.1µ
XU9 N015 N009 V+ V- N009 LT1001
C14 N015 0 100n
R19 N005 N009 220k
R20 N013 N005 470k
C15 N013 0 22n
XU10 N013 N006 V+ V- N006 LT1001
C16 N006 N005 100n
R21 N015 N014 150k
V4 N001 0 SINE(0 0.1 5)
V5 N020 0 SINE(0 0.5 5)
V6 NC_01 0 2
J2 N020 N021 N022 NJF
V7 N021 0 PULSE(0 -4.5 0 0 0 2.5 5)
R9 N022 0 100k
J1 N001 N004 N012 NJF
V1 N012 N004 PULSE(0 5 0 0 0 2.5 5)
R8 N012 0 100k
.model NJF NJF
.model PJF PJF
.lib C:\Users\aushilfe\AppData\Local\LTspice\lib\cmp\standard.jft
* Instrumentationsverstärker
.tran 5
* Verstärker v=100
* 3rd Order Butterworth (50Hz/-40dB)
* D
* S
* G
.lib LTC.lib
.backanno
.end
